US09382238B2
To a mixture of 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (200 mg, 0.519 mmol) and 2-(4-bromo-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide (212 mg, 0.519 mmol) in water (1 mL) and 1,4-dioxane (3 mL) was added Cs2CO3 (338 mg, 1.038 mmol) and PdCl2(dppf) (38.0 mg, 0.052 mmol) under N2. Then the mixture was stirred and irradiated in a microwave oven at 120° C. for 20 min. The mixture was then concentrated. The crude material was purified by preparative TLC (PE/EA=2:1, Rf=0.4) to yield a off white solid of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide (100 mg, 0.121 mmol, 23% yield): 1H NMR (400 MHz, CD3OD) δ 7.42-7.28 (m, 5H), 7.27-7.21 (m, 2H), 6.92-6.84 (m, 2H), 6.36 (s, 1H), 4.50 (s, 2H), 4.11 (d, J=6.8 Hz, 2H), 3.82 (s, 2H), 3.79-3.75 (m, 3H), 1.52 (s, 6H), 1.45 (t, J=7.2 Hz, 3H); ES-LCMS m/z 468 (M−119).

reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.519 mmol, 200 mg | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | 2-(4-bromo-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide | 0.519 mmol, 212 mg | BrC1=CC(=C(C=C1)CC(=O)NC1=CC(=NO1)C(C(F)(F)F)(C)C)F | C15H13BrF4N2O2
reactant | Cs2CO3 | 1.038 mmol, 338 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.052 mmol, 38.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide | 0.121 mmol, 100 mg, 23% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=NO1)C(C(F)(F)F)(C)C)F | C30H29F4N3O5
